US04066610
0.02 moles β-(3,5-di-t-butyl-4-hydroxy phenyl) propionyl chloride in 25 ml methylene chloride was added to a stirred mixture containing a solution of 0.02 mol triethylene tetramine in 125 ml methylene chloride and 25 ml 10% sodium carbonate. The mixture was stirred for two hours and then separated. The methylene chloride layer was washed with 5% sodium carbonate solution and then with water, subsequently dried over anhydrous magnesium sulfate and finally evaporated to dryness. A resinous material of 1,8-bis[β-(3,5-di-t-butyl-4-hydroxy phenyl) propionamido]-3,6-diazaoctane resulted which was pulverized to give a light brown solid having a melting point of 80°-110° C.

reactant | β-(3,5-di-t-butyl-4-hydroxy phenyl) propionyl chloride | 0.02 moles | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)Cl | C17H25ClO2
reactant | triethylene tetramine | 0.02 mol | NCCNCCNCCN | C6H18N4
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | 25 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 1,8-bis[β-(3,5-di-t-butyl-4-hydroxy phenyl) propionamido]-3,6-diazaoctane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCNCCNCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H66N4O4
